US06440995B1
(RS)-1-Phenethylamino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol
The title compound, NIS: m/e=398 (M+H+), was prepared from (RS)-N-[2-hydroxy-3-(2-phenyl-quinolin-4-ylamino)-propyl]-2-phenyl-acetamide.

reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | (RS)-N-[2-hydroxy-3-(2-phenyl-quinolin-4-ylamino)-propyl]-2-phenyl-acetamide | OC(CNC(CC1=CC=CC=C1)=O)CNC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C26H25N3O2
product | (RS)-1-Phenethylamino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol | C(CC1=CC=CC=C1)NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C26H27N3O
